US05516905
6-(5-Indanylamino)-2-thiouracil (a).
6-Amino-2-thiouracil is heated for 4 hours at 160° C. with an equimolar mixture of 5-aminoindan and the hydrochloride of 5-aminoindan. The product is crystallized from ethanol/water and isolated in 6% yield, mp 269°-272° C.

reactant | 6-Amino-2-thiouracil | NC1=CC(NC(N1)=S)=O | C4H5N3OS
reactant | 5-aminoindan | NC=1C=C2CCCC2=CC1 | C9H11N
reactant | hydrochloride | Cl | ClH
product | 6-(5-Indanylamino)-2-thiouracil | 6% yield | C1CCC2=CC(=CC=C12)NC1=CC(NC(N1)=S)=O | C13H13N3OS
